US05532240
A mixture of 800 mg of 2-chloroethyl-4,5,6,7-tetrahydro-8H-thieno[2,3-c]azepin-8-one, 920 mg of 4-(6-fluoro-1,2-benzisoxazol-3-yl)piperidine hydrochloride, 1.45 g of potassium carbonate and 580 mg of potassium iodide in 10 ml of dimethylformamide and 10 ml of toluene was stirred at 90° C. for 22 hours and concentrated in vacuo. To the residue were added ethyl acetate and water, and separated. The ethyl acetate layer was washed with water, dried over magnesium sulfate and concentrated in vacuo. The residue was purified by column chromatography on a silica gel and recrystallized from ethyl acetate to give 0.65 g of 2-(2-(4-(6-fluoro-1,2-benzisoxazol-3-yl)piperidin-1-yl)ethyl)-4,5,6,7-tetrahydro-8H-thieno[2,3-c]azepin-8-one, m.p. 192°-194° C.

reactant | 2-chloroethyl-4,5,6,7-tetrahydro-8H-thieno[2,3-c]azepin-8-one | 800 mg | ClCCC1=CC2=C(C(NCCC2)=O)S1 | C10H12ClNOS
reactant | 4-(6-fluoro-1,2-benzisoxazol-3-yl)piperidine hydrochloride | 920 mg | Cl.FC1=CC2=C(C(=NO2)C2CCNCC2)C=C1
reactant | potassium carbonate | 1.45 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 580 mg | [I-].[K+]
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(2-(4-(6-fluoro-1,2-benzisoxazol-3-yl)piperidin-1-yl)ethyl)-4,5,6,7-tetrahydro-8H-thieno[2,3-c]azepin-8-one | 0.65 g | FC1=CC2=C(C(=NO2)C2CCN(CC2)CCC2=CC3=C(C(NCCC3)=O)S2)C=C1 | C22H24FN3O2S
